US04035508
A mixture of 50.0 g. (0.100 mole) bis(p-pivaloylbenzyl)malonic acid diethylester, 6.0 g. (0.103 mole) sodium chloride, 200 ml. dimethylsulfoxide and 3.5 ml. water is heated at 180° for 22 hours. The resulting mixture is then cooled and poured into water. The water mixture is extracted twice with methylene chloride and the methylene chloride washed with water and dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo. The resulting oil is crystallized from pentane to give bis(p-pivaloylbenzyl) acetic acid ethyl ester; m.p. 60°-63° C.

reactant | bis(p-pivaloylbenzyl)malonic acid diethylester | 0.100 mole | C(C)OC(C(C(=O)OCC)(CC1=CC=C(C=C1)C(C(C)(C)C)=O)CC1=CC=C(C=C1)C(C(C)(C)C)=O)=O | C31H40O6
reactant | sodium chloride | 0.103 mole | [Cl-].[Na+]
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | bis(p-pivaloylbenzyl) acetic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)C(C(C)(C)C)=O)CC1=CC=C(C=C1)C(C(C)(C)C)=O)=O | C28H36O4
